US07598391B2
1,1-Dicyclohexyl-3-[5-(2-dimethylamino-ethylsulfanyl)-4-methyl-thiazol-2-yl]-urea
Prepared as described in general procedure (H) using 1,1-dicyclohexyl-3-(4-methyl-5-thiocyanato-thiazol-2-yl)-urea and dimethylaminoethylchloride.

reactant | 1,1-dicyclohexyl-3-(4-methyl-5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=C(N1)C)SC#N)C1CCCCC1 | C18H26N4OS2
reactant | dimethylaminoethylchloride | CN(C)CCCl | C4H10ClN
product | 1,1-Dicyclohexyl-3-[5-(2-dimethylamino-ethylsulfanyl)-4-methyl-thiazol-2-yl]-urea | C1(CCCCC1)N(C(=O)NC=1SC(=C(N1)C)SCCN(C)C)C1CCCCC1 | C21H36N4OS2
